US04298743
A mixture of 4-bromothiobenzamide (2.16 g., 0.01 mole) and ethyl 3-bromo-4-oxobutyrate (3.2 g., 0.015 mole) in ethanol (50 ml.) is heated at reflux for 6 hours. On cooling and partial evaporation there is obtained 2-(4-bromophenyl)thiazol-5-ylacetic acid ethyl ester. Reaction of this product with ammonia according to the procedure of Example 3 gives 2-(4-bromophenyl)thiazol-5-ylacetamide, which on reaction with diethyl oxalate and base in dimethylformamide, according to the general procedure of Example 6, affords the title compound.

reactant | 4-bromothiobenzamide | 0.01 mole, 2.16 g | BrC1=CC=C(C(=S)N)C=C1 | C7H6BrNS
reactant | ethyl 3-bromo-4-oxobutyrate | 0.015 mole, 3.2 g | BrC(CC(=O)OCC)C=O | C6H9BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-bromophenyl)thiazol-5-ylacetic acid ethyl ester | C(C)OC(CC1=CN=C(S1)C1=CC=C(C=C1)Br)=O | C13H12BrNO2S
